US07816401B2
(3) Synthesis of (2S,3S,4E,6S,7R,10R)-7,10-dihydroxy-3,7-dimethyl-2-[(1E)-1-methylbuta-1,3-dien-1-yl]-12-oxooxacyclododec-4-en-6-yl acetate (Q12)
Triethylamine (35.6 μl, 246 μmol), acetic anhydride (11.6 μl, 123 μmol) and 4-dimethylaminopyridine (3.0 mg, 24.6 μmol) were added to an anhydrous dichloromethane (2 ml) solution of (4R,7R,8S,9E,11S,12S)-4,7,8-trihydroxy-7,11-dimethyl-12-[(1E)-1-methylbuta-1,3-dien-1-yl]-oxacyclododec-9-en-2-one (40.0 mg, 123 μmol) at 0° C. and the reaction solution was stirred at the same temperature for one hour. The reaction solution was poured into a saturated sodium hydrogen carbonate aqueous solution, and the reaction solution was diluted with ethyl acetate and washed with distilled water and brine sequentially, and after dried over anhydrous sodium sulfate, the drying agent was filtered off and the organic layer was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (Merck, commercial name Silica Gel 60, 230-400 mesh; hexane:diethyl ether=1:2) to obtain the title compound (42 mg) as a white solid.

reactant | Triethylamine | 246 μmol, 35.6 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 123 μmol, 11.6 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | (4R,7R,8S,9E,11S,12S)-4,7,8-trihydroxy-7,11-dimethyl-12-[(1E)-1-methylbuta-1,3-dien-1-yl]-oxacyclododec-9-en-2-one | 123 μmol, 40.0 mg | O[C@H]1CC(O[C@@H]([C@H](/C=C/[C@@H]([C@](CC1)(C)O)O)C)\C(=C\C=C)\C)=O | C18H28O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 24.6 μmol, 3.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S,3S,4E,6S,7R,10R)-7,10-dihydroxy-3,7-dimethyl-2-[(1E)-1-methylbuta-1,3-dien-1-yl]-12-oxooxacyclododec-4-en-6-yl acetate | 42 mg | C(C)(=O)O[C@H]1/C=C/[C@@H]([C@H](OC(C[C@@H](CC[C@@]1(C)O)O)=O)\C(=C\C=C)\C)C | C20H30O6
